US06124284
A mixture of (Z)-2-(2,3-dibromo-6-fluoro-1-indanylidene)acetamide (0.54 g, 1.55 mmoles) and silver carbonate (0.56 g, 2.03 mmoles, Aldrich) in dimethoxyethane (15 mL) and water (30 mL) was refluxed for 6 hours. The mixture was stirred overnight at ambient temperature and refluxed again for 6 hours. The mixture was diluted with water (100 mL) and extracted with ethyl acetate (6×30 mL). The combined extracts were washed with water (100 mL) and brine (100 mL), and evaporated in vacuo. The residue was chromatographed on silica gel, eluting with hexane:ethyl acetate (2:1). The fractions containing the compound with Rf=0.15, eluting with ethyl acetate, were combined and evaporated in vacuo to give 0.12 g (35%) of crude (Z)-2-(2,3-dihydroxy-6-fluoro-1-indanylidene) acetamide as a beige solid. Recrystallization from ethyl acetate:hexane mixtures gave 0.037 g (11%) of (Z)-2-(2,3-dihydroxy-6-fluoro-1-indanylidene)acetamide as an off-white solid which was shown by 1H-NMR to be a mixture (85:15) of diastereomers, mp 212-220° C., 1H-NMR (DMSO-d6): d 7.82 (d, 2H, 7.28-7.76 (m, 3H), 6.96 (s, 1H), 6.80 (s, 0.15H), 6.54 (s, 0.85H), 6.51 and 6.12 (m, 0.3H), 5.92 (d, 1H), 4.81 (m, 1.7H); steady-state nOe: irradiation at 6.47d, observed 20% nOe at 7.38d.

reactant | (Z)-2-(2,3-dibromo-6-fluoro-1-indanylidene)acetamide | 1.55 mmoles, 0.54 g | BrC1\C(\C2=CC(=CC=C2C1Br)F)=C/C(=O)N | C11H8Br2FNO
reactant | dimethoxyethane | 15 mL | C(OC)COC | C4H10O2
solvent | water | 30 mL | O | H2O
solvent | water | 100 mL | O | H2O
catalyst | silver carbonate | 2.03 mmoles, 0.56 g | C([O-])([O-])=O.[Ag+2]
product | (Z)-2-(2,3-dihydroxy-6-fluoro-1-indanylidene) acetamide | 0.12 g, 35% | OC1\C(\C2=CC(=CC=C2C1O)F)=C/C(=O)N | C11H10FNO3
